US04483857
1-Formylpiperazine (5.0 g) in dry acetone (28 ml) was added dropwise to a stirred suspension of cyanuric chloride (6.2 g) and sodium bicarbonate (2.58 g) in dry acetone (153 ml) at -35°. The reaction mixture was stirred at -30° for 13/4 hours. Insoluble material was removed by filtration and washed with acetone. The combined filtrate and washings were evaporated in vacuo and the residue taken up in methylene chloride, filtered and the filtrate evaporated in vacuo. The resulting solid was re-crystallized twice from ethyl acetate to give in two fractions 4,6-dichloro-2-(4-formylpiperazino)1,3,5-triazine (3.1 g) m.p. 163°-165°.

reactant | 1-Formylpiperazine | 5.0 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | cyanuric chloride | 6.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium bicarbonate | 2.58 g | C([O-])(O)=O.[Na+]
solvent | acetone | 28 ml | CC(=O)C | C3H6O
solvent | acetone | 153 ml | CC(=O)C | C3H6O
product | 4,6-dichloro-2-(4-formylpiperazino)1,3,5-triazine | 3.1 g | ClC1=NC(=NC(=N1)Cl)N1CCN(CC1)C=O | C8H9Cl2N5O
